US04457872
By reducing N,N-dibenzyl-4-benzyloxy-3-nitrobenzamide (melting point 131°-132° C.) in water-containing methanol with reduced iron powder-hydrochloric acid, 3-amino-N,N-dibenzyl-4-benzyloxybenzamide (melting point 81° C.) was obtained. Then, by reacting 3-amino-N,N-dibenzyl-4-benzyloxybenzamide with ethyl oxalyl chloride in the presence of pyridine in tetrahydrofuran, ethyl 2-benzyloxy-5-(N,N-dibenzylcarbamoyl)oxanilate (melting point 132°-133° C.) was obtained. A solution of 3.6 g of ethyl 2-benzyloxy-5-(N,N-dibenzylcarbamoyl)oxanilate thus obtained in 100 ml of ethanol was catalytically hydrogenated in the presence of 0.8 g of 10% palladium carbon until the absorption of hydrogen stopped. After the reaction was over, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to provide 2.7 g of ethyl 5-(N,N-dibenzylcarbamoyl)-2-hydroxyoxanilate, a gum.

reactant | N,N-dibenzyl-4-benzyloxy-3-nitrobenzamide | C(C1=CC=CC=C1)N(C(C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O)CC1=CC=CC=C1 | C28H24N2O4
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-amino-N,N-dibenzyl-4-benzyloxybenzamide | NC=1C=C(C(=O)N(CC2=CC=CC=C2)CC2=CC=CC=C2)C=CC1OCC1=CC=CC=C1 | C28H26N2O2
